US04818276
A stirred solution of 30.0 g (0.127 mole) of 2-bromo-4-fluoro-5-nitrophenol, 26.9 g (0.19 mole) of methyl iodide, and 26.3 g (0.19 mole) of potassium carbonate in 200 mL of acetone was heated at reflux for five hours. The reaction mixture was filtered, and the filtrate concentrated under reduced pressure to give a residue. The residue was dissolved in methylene chloride and passed through a column of silica gel. The elute was concentrated under reduced pressure to give 30 g of 4-bromo-2-fluoro-5-methoxynitrobenzene; m.p. 74°-76° C.

reactant | 2-bromo-4-fluoro-5-nitrophenol | 0.127 mole, 30.0 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | methyl iodide | 0.19 mole, 26.9 g | CI | CH3I
reactant | potassium carbonate | 0.19 mole, 26.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-fluoro-5-methoxynitrobenzene | 30 g | BrC1=CC(=C(C=C1OC)[N+](=O)[O-])F | C7H5BrFNO3
